US05015652
To 10 g (27 mmole) of 3-t-butyl-5-(2-aminoethylthio)-1H-1,2,4-triazole dihydrobromide in 100 ml of methylene chloride was added 5.5 g (54 mmole) of triethylamine. The mixture was cooled to -40° C. and a solution of 5.2 g (27 mmole) of 4-trifluoromethylphenyl isocyanate in methylene chloride was slowly added. The stirred mixture was slowly allowed to warm to room temperature and was stirred at room temperature for eighteen hours. The reaction mixture was washed twice with water, dried over magnesium sulfate, filtered and concentrated in vacuo to yield 9 g of 3-t-butyl-5-(2-(4-trifluoromethylphenylcarbamoylamino)-ethylthio)-1H-1,2,4-triazole, m.p. 238°-240° C.

reactant | 3-t-butyl-5-(2-aminoethylthio)-1H-1,2,4-triazole dihydrobromide | 27 mmole, 10 g | Br.Br.C(C)(C)(C)C1=NNC(=N1)SCCN
reactant | triethylamine | 54 mmole, 5.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylphenyl isocyanate | 27 mmole, 5.2 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-t-butyl-5-(2-(4-trifluoromethylphenylcarbamoylamino)-ethylthio)-1H-1,2,4-triazole | 9 g | C(C)(C)(C)C1=NNC(=N1)SCCNC(NC1=CC=C(C=C1)C(F)(F)F)=O | C16H20F3N5OS
